US09163008B2
To a suspension of methyl 4-chloro-6-(4-(4-fluorophenoxy)phenyl)pyrimidine-2-carboxylate (0.719 g, 2.00 mmol) in acetonitrile (10 mL) was added (S)-methyl 2-aminopropanoate hydrochloride (0.310 g, 2.22 mmol) and iPr2NEt (0.77 mL, 4.4 mmol). The mixture was heated at 50° C. for 2 h than 80° C. for 6 days. The mixture was evaporated in vacuo and the residue chromatographed over silica gel with 20-60% EtOAc/hexanes. The product fractions were evaporated in vacuo to give (S)-methyl 4-(4-(4-fluorophenoxy)phenyl)-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-2-carboxylate as a pale tan oil (0.479 g, 1.13 mmol, 56% yield). LC/MS: m/z=426.2 [M+H]+.

reactant | methyl 4-chloro-6-(4-(4-fluorophenoxy)phenyl)pyrimidine-2-carboxylate | 2.00 mmol, 0.719 g | ClC1=NC(=NC(=C1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)OC | C18H12ClFN2O3
reactant | (S)-methyl 2-aminopropanoate hydrochloride | 2.22 mmol, 0.310 g | Cl.N[C@H](C(=O)OC)C
reactant | iPr2NEt | 4.4 mmol, 0.77 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-methyl 4-(4-(4-fluorophenoxy)phenyl)-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-2-carboxylate | 1.13 mmol, 0.479 g, 56% yield | FC1=CC=C(OC2=CC=C(C=C2)C2=NC(=NC(=C2)N[C@H](C(=O)OC)C)C(=O)OC)C=C1 | C22H20FN3O5
